US08357694B2
Step 1: (R)-2-((Dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one.
A solution of (R)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one (8.0 g, 33.33 mmol) in N,N-dimethylformamide dimethylacetal (80 mL) was heated at 100° C. for 40 h. After the reaction mixture was cooled to room temperature, hexane (50 mL) was added. Product was collected by filtration and dried under high vacuum overnight to yield the title compound as yellow needles (6.95 g, 70% yield). 1H-NMR (DMSO-d6) δ 7.92 (dd, J=7.2 and 1.6 Hz, 1 H), 7.57 (s, 1 H), 7.42-7.34 (m, 2 H), 7.31-7.21 (m, 2 H), 7.09 (t, 1 H), 6.91-6.88 (m, 2 H), 4.48 (t, J=7.2 Hz, 1 H), 3.25-3.13 (m, 2 H), 3.02 (s, 6 H). LCMS m/e 296 [M+H].

reactant | (R)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one | 33.33 mmol, 8.0 g | FC1=C(C=CC=C1)[C@@H]1CCC(C2=CC=CC=C12)=O | C16H13FO
reactant | hexane | 50 mL | CCCCCC | C6H14
reactant | N,N-dimethylformamide dimethylacetal | 80 mL | COC(N(C)C)OC | C5H13NO2
product | (R)-2-((Dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one | 6.95 g, 70% yield | CN(C)C=C1C(C2=CC=CC=C2[C@@H](C1)C1=C(C=CC=C1)F)=O | C19H18FNO
